US06734301B2
A solution of N-benzyl-2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine (195 mg, 0.48 mmol) in methanol (10 mL) is treated with 10% palladium on carbon (40 mg) and ammonium formate (210 mg, 3.3 mmol) followed by heating to reflux. After 18 hrs, the reaction is cooled to rt, filtered through celite, and concentrated to give a crude yellow oil. This material is purified by LC (230-400 silica gel) eluting with 20:2.5:77.5 methanol/ammonuim hydroxide/dichloromethane to afford 51 mg (47%) of 2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine as a colorless oil that solidified, mp 77-80° C. MS (EI) m/z 229 (M+); % Water (KF): 0.94; Anal. Calculated for C14H19N3.0.94 H2O: C, 72.64; H, 8.38; N, 18.15. Found: C, 72.66; H, 8.32; N, 18.03.

reactant | N-benzyl-2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine | 0.48 mmol, 195 mg | C(C1=CC=CC=C1)NCCC1=C2N(C=3C=CC=CC13)CCN(CC2)CC2=CC=CC=C2 | C28H31N3
reactant | ammonium formate | 3.3 mmol, 210 mg | C(=O)[O-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
product | 2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine | 51 mg, 47% | C1CNCCN2C1=C(C=1C=CC=CC21)CCN | C14H19N3
